US04886810
A mixture of 5-amino-1-cyclopropyl-6,7,8-trifluoro-1,4-dihydro-4-oxoquinoline-3-carboxylic acid (1.5 g), 3-amino-3-methylpyrrolidine (0.76 g), DBU (0.77 g), and acetonitrile (30 ml) was refluxed for 7 hours. The precipitated crystals were collected by filtration after cooling, and washed with acetonitrile. The crystals were suspended in water (50 ml) and dissolved by addition of a 10% aqueous solution of acetic acid. The solution was treated with activated carbon, and adjusted to pH 7-8 with 10% aqueous ammonia. The precipitated crystals were collected by filtration, washed with water and then with ethanol, and dried to give 5-amino-7-(3-amino-3-methyl1-pyrrolidinyl)-1-cyclopropyl-6,8-difluoro-1,4-dihydro4-oxoquinoline-3-carboxylic acid (1.15 g), m.p. 271°-273° C. (decomp.).

reactant | 5-amino-1-cyclopropyl-6,7,8-trifluoro-1,4-dihydro-4-oxoquinoline-3-carboxylic acid | 1.5 g | NC1=C2C(C(=CN(C2=C(C(=C1F)F)F)C1CC1)C(=O)O)=O | C13H9F3N2O3
reactant | 3-amino-3-methylpyrrolidine | 0.76 g | NC1(CNCC1)C | C5H12N2
reactant | DBU | 0.77 g | C1CCC2=NCCCN2CC1 | C9H16N2
solvent | acetonitrile | 30 ml | C(C)#N | C2H3N
product | 5-amino-7-(3-amino-3-methyl1-pyrrolidinyl)-1-cyclopropyl-6,8-difluoro-1,4-dihydro4-oxoquinoline-3-carboxylic acid | 1.15 g | NC1=C2C(C(=CN(C2=C(C(=C1F)N1CC(CC1)(C)N)F)C1CC1)C(=O)O)=O | C18H20F2N4O3
